US06541521B1
In a manner similar to that described in Example 3, 4-chloro-benzoyl chloride (0.058 g, 0.00033 mol) was allowed to react with 4-(4-amino-phenyl)-4-oxo-butyric acid, methyl ester (0.052 g, 0.00025 mol), and the resulting intermediate was hydrolyzed to give 0.016 g of 4-[4-(4-chloro-benzoylamino)-phenyl]-4-oxo-butyric acid as an off-white solid; MS-(AP+) MH+332.

reactant | 4-chloro-benzoyl chloride | 0.00033 mol, 0.058 g | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
reactant | 4-(4-amino-phenyl)-4-oxo-butyric acid, methyl ester | 0.00025 mol, 0.052 g | NC1=CC=C(C=C1)C(CCC(=O)OC)=O | C11H13NO3
product | 4-[4-(4-chloro-benzoylamino)-phenyl]-4-oxo-butyric acid | 0.016 g | ClC1=CC=C(C(=O)NC2=CC=C(C=C2)C(CCC(=O)O)=O)C=C1 | C17H14ClNO4
